US06455720B1
(1) Synthesis of 1,1,2-Triphenylethylene
Into a reactor was introduced 41 mL (55 mmol; 1.06 M THF solution) of benzylmagnesium chloride under a nitrogen atmosphere. The contents were cooled to 0° C. Thereafter, a solution prepared by mixing 9.11 g (50.0 mmol) of benzophenone with 18 mL of THF was gradually added dropwise thereto, and this mixture was stirred at room temperature for 1 hour. The resultant reaction mixture was washed with 0.1 M hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution, and saturated aqueous sodium chloride solution and then dried with anhydrous magnesium sulfate. Thereafter, the solvent was removed under reduced pressure. The concentrate was dissolved in 46 mL of toluene, and 0.18 g of p-toluenesulfonic acid monohydrate was added thereto. Azeotropic dehydration was conducted for 2 hours with toluene refluxing. After being cooled, the reaction mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution, subsequently dried with anhydrous magnesium sulfate, and then concentrated under reduced pressure to obtain 12.5 g (98%) of a transparent oily substance.

reactant | benzylmagnesium chloride | 55 mmol, 1.06 M, 41 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | benzophenone | 50.0 mmol, 9.11 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
solvent | THF | 18 mL | C1CCOC1 | C4H8O
product | 1,1,2-Triphenylethylene | C1(=CC=CC=C1)C(=CC1=CC=CC=C1)C1=CC=CC=C1 | C20H16
